US08003785B2
To a solution of 1.9 g (0.0044 mole) of 3-[(2-chloro-5-nitro-pyrimidin-4-yl)-(4-methoxy-benzyl)-amino]-2,2-difluoro-propionic acid ethyl ester (IV-291) in 40 mL of acetic acid was added 1.9 g (0.034 g-atom) of iron powder. The mixture was heated to 80 degrees for 2 hours and then filtered while hot. Water and ethyl acetate were added to the filtrate and the mixture was stirred for 10 minutes and then filtered. The layers were separated. The organic layer was washed successively with ammonium hydroxide and water, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure and recrystallized from ethyl acetate to give 0.65 g of 2-chloro-7,7-difluoro-9-(4-methoxy-benzyl)-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one (VI-291) as a white solid.

reactant | 3-[(2-chloro-5-nitro-pyrimidin-4-yl)-(4-methoxy-benzyl)-amino]-2,2-difluoro-propionic acid ethyl ester | 0.0044 mole, 1.9 g | C(C)OC(C(CN(CC1=CC=C(C=C1)OC)C1=NC(=NC=C1[N+](=O)[O-])Cl)(F)F)=O | C17H17ClF2N4O5
solvent | acetic acid | 40 mL | C(C)(=O)O | C2H4O2
catalyst | iron | 1.9 g | [Fe] | Fe
product | 2-chloro-7,7-difluoro-9-(4-methoxy-benzyl)-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one | 0.65 g | ClC=1N=CC2=C(N(CC(C(N2)=O)(F)F)CC2=CC=C(C=C2)OC)N1 | C15H13ClF2N4O2
